US04318913
N5 -[2-[[[5-(Dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-1H-1,2,4-triazole-3,5-diamine
Hydrazine hydrate (3.5 ml) was added to a solution of N-cyano-N'-[2-[[[5-(dimethylamino) methyl-2-furanyl]methyl]thio]ethyl]carbamimidothioic acid, methyl ester (5.47 g) in ethanol (40 ml). After stirring for 3 days at room temperature the solvent was removed and the residual oil crystallised from water to give the title compound as white needles (2.95 g) m.p. 76°-78.5°.

reactant | Hydrazine hydrate | 3.5 ml | O.NN
reactant | N-cyano-N'-[2-[[[5-(dimethylamino) methyl-2-furanyl]methyl]thio]ethyl]carbamimidothioic acid, methyl ester | 5.47 g | C(#N)NC(=NCCSCC=1OC(=CC1)CN(C)C)SC | C13H20N4OS2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N5 -[2-[[[5-(Dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-1H-1,2,4-triazole-3,5-diamine | 2.95 g | CN(C)CC1=CC=C(O1)CSCCNC1=NC(=NN1)N | C12H20N6OS
